US09290465B2
{3-[4-(Pyridin-3-ylmethoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester (from previous reaction) was dissolved in dioxane (18 mL) and treated with conc. HCl (3.6 mL). After stirring for 3 h, the reaction mixture combined with satd aqueous NaHCO3 (20 mL). The organic layer was separated and dried over Na2SO4. Filtration followed by removal of volatiles under reduced pressure gave an oily white solid from which 3-[4-(pyridin-3-ylmethoxy)-phenyl]-isoxazol-4-ylamine (6.5 mg, 6.7%) was isolated as a white solid by chromatography (5% CH3OH in CH2Cl2). HRMS: 268.108 (M+1)

reactant | {3-[4-(Pyridin-3-ylmethoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)OCC=1C=NC=CC1)=O | C20H21N3O4
reactant | HCl | 3.6 mL | Cl | ClH
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
product | 3-[4-(pyridin-3-ylmethoxy)-phenyl]-isoxazol-4-ylamine | 6.5 mg, 6.7% | N1=CC(=CC=C1)COC1=CC=C(C=C1)C1=NOC=C1N | C15H13N3O2
